US05359114
In a 500 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 29.6 g (0.127 mole) of cyclopentyl triethoxysilane, 151.1 g (2.04 mole) of sec-butyl alcohol and 286.5 mg (4.21 m mole) of sodium ethoxide, which were then reacted with each other in an oil bath of 50° C. for 10 hours under stirring. Then, trimethylchlorosilane was added to neutralize the alkali. Then, 24.2 g (0.0931 mole) of sec-butoxy cyclopentyl diethoxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. The yield was 73%

reactant | cyclopentyl triethoxysilane | 0.127 mole, 29.6 g | C1(CCCC1)[Si](OCC)(OCC)OCC | C11H24O3Si
reactant | sec-butyl alcohol | 2.04 mole, 151.1 g | C(C)(CC)O | C4H10O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
catalyst | sodium ethoxide | 286.5 mg | [O-]CC.[Na+]
product | sec-butoxy cyclopentyl diethoxysilane | 0.0931 mole, 24.2 g, yield was 73% | C(C)(CC)O[Si](OCC)(OCC)C1CCCC1 | C13H28O3Si
